US05286592
5-Nitro-8-acetamidoquinoline prepared as above, (15 g, 64.9 mmol) was dissolved in tetrahydrofuran (75 ml) and treated with 40% hydrochloric acid (300 ml). The mixture was held at 80° C. for 3.5 hours and then allowed to cool. Tetrahydrofuran was removed under reduced pressure and the residual liquid was treated with saturated sodium bicarbonate solution until a neutral solution was obtained. The precipitate was removed by filtration to give 5-nitro-8-aminoquinoline (10 g).

reactant | 5-Nitro-8-acetamidoquinoline | [N+](=O)([O-])C1=C2C=CC=NC2=C(C=C1)NC(C)=O | C11H9N3O3
reactant | hydrochloric acid | 300 ml | Cl | ClH
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 5-nitro-8-aminoquinoline | 10 g | [N+](=O)([O-])C1=C2C=CC=NC2=C(C=C1)N | C9H7N3O2
